US09240558B2
Step 3: Synthesis of 7-[4-(10-Phenyl-9-anthryl)phenyl]-7H-dibenzo[c,g]carbazole (cgDBCzPA)
In a 100 mL three-neck flask were placed 2.3 g (5.6 mmol) of 9-(4-bromophenyl)-10-phenylanthracene, 1.5 g (5.6 mol) of 7H-dibenzo[c,g]carbazole, and 1.2 g (12 mmol) of sodium tert-butoxide. After the air in the flask was replaced with nitrogen, to this mixture were added 30 mL of toluene and 2.8 mL of tri-(tert-butyl)phosphine (a 10 wt % hexane solution). This mixture was degassed by being stirred while the pressure was reduced. After the degassing, 0.16 g (0.28 mmol) of bis(dibenzylideneacetone)palladium(0) was added to this mixture. This mixture was stirred at 110° C. for 17 hours under a nitrogen stream, so that a solid was precipitated. The precipitated solid was removed by suction filtration. The collected solid was dissolved in about 30 mL of hot toluene, and this solution was suction-filtered through Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), alumina, and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). A solid obtained by concentration of the filtrate was recrystallized from toluene/hexane to give 2.3 g of a pale yellow powder, which was the object of the synthesis, in a yield of 70%. A reaction scheme (c−1) of Step 3 is illustrated below.

reactant | 9-(4-bromophenyl)-10-phenylanthracene | 5.6 mmol, 2.3 g | BrC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC=CC=C1 | C26H17Br
reactant | 7H-dibenzo[c,g]carbazole | 5.6 mol, 1.5 g | C1=CC=CC=2C=CC=3NC=4C=CC5=C(C4C3C21)C=CC=C5 | C20H13N
reactant | sodium tert-butoxide | 12 mmol, 1.2 g | CC(C)([O-])C.[Na+]
reactant | tri-(tert-butyl)phosphine | 2.8 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.28 mmol, 0.16 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | hexane | CCCCCC | C6H14
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 7-[4-(10-Phenyl-9-anthryl)phenyl]-7H-dibenzo[c,g]carbazole | 2.3 g, yield of 70% | C1(=CC=CC=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)N1C=2C=CC3=C(C2C=2C4=C(C=CC12)C=CC=C4)C=CC=C3 | C46H29N
